US08563575B2
2-Chloro-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-benzimidazole (1.861 g) was added to a solution of 1-ethyl-3-(4-hydroxyphenyl)-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (1.4 g) and sodium hydride (0.263 g) in DMF (dry) (10 mL) at room temperature. The mixture was heated at 200° C. for 1 h under microwave irradiation. The reaction mixture was concentrated under reduced pressure. The residue was purified by column chromatography (NH silica gel, eluted with 5%-50% EtOAc in hexane) to give 1-ethyl-3-{4-[(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-benzimidazol-2-yl)oxy]phenyl}-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (2.60 g) as a colorless solid. A mixture of 1-ethyl-3-{4-[(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-benzimidazol-2-yl)oxy]phenyl}-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (194 mg) and 2 M HCl in EtOH (6.0 mL) was stirred at 70° C. for 4 h. After cooling to room temperature, the solvent was removed in vacuo. The residue was recrystallized from EtOH-ether to give 3-[4-(1H-benzimidazol-2-yloxy)phenyl]-1-ethyl-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one hydrochloride (154 mg).

reactant | 1-ethyl-3-{4-[(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-benzimidazol-2-yl)oxy]phenyl}-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 194 mg | C(C)N1C(N(C2=NC=CC=C21)C2=CC=C(C=C2)OC2=NC1=C(N2COCC[Si](C)(C)C)C=CC=C1)=O | C27H31N5O3Si
reactant | HCl | 2 M | Cl | ClH
solvent | EtOH | 6.0 mL | CCO | C2H6O
product | 3-[4-(1H-benzimidazol-2-yloxy)phenyl]-1-ethyl-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one hydrochloride | 154 mg | Cl.N1C(=NC2=C1C=CC=C2)OC2=CC=C(C=C2)N2C(N(C=1C2=NC=CC1)CC)=O | InChI=1S/C21H17N5O2.ClH/c1-2-25-18-8-5-13-22-19(18)26(21(25)27)14-9-11-15(12-10-14)28-20-23-16-6-3-4-7-17(16)24-20;/h3-13H,2H2,1H3,(H,23,24);1H
